US06225328B1
Preparation 4-[7-(1-adamantyl)-6-ethoxycarbonylbutyloxy-2-naphthyl]benzoic acid
Following the procedure of Example 12(a), but reacting 2 g (4.5 mmol) of allyl 4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate with 1.4 g (6.7 mmol) of ethyl 5-bromovalerate, 1.55 g (59%) of the expected compound was obtained, which compound had a melting point of 117°-8° C.

reactant | allyl 4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate | 4.5 mmol, 2 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OCC=C)C=C2)O | C30H30O3
reactant | ethyl 5-bromovalerate | 6.7 mmol, 1.4 g | BrCCCCC(=O)OCC | C7H13BrO2
product | 4-[7-(1-adamantyl)-6-ethoxycarbonylbutyloxy-2-naphthyl]benzoic acid | 1.55 g, 59% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)O)C=C2)OCCCCC(=O)OCC | C34H38O5
